US04500733
In a similar manner, 3-phenoxybenzylchloride is reacted with the sodium salt of 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylic acid, prepared by the process of this invention, to yield 3-phenoxybenzyl 2-(2,2-dichlorovinyl)3,3-dimethylcyclopropanecarboxylate.

reactant | 3-phenoxybenzylchloride | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | sodium | [Na] | Na
reactant | 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylic acid | ClC(=CC1C(C1(C)C)C(=O)O)Cl | C8H10Cl2O2
product | 3-phenoxybenzyl 2-(2,2-dichlorovinyl)3,3-dimethylcyclopropanecarboxylate | ClC(=CC1C(C1(C)C)C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)Cl | C21H20Cl2O3
